US09023865B2
6-Chloro-3-(4-fluorophenyl)-1H-pyrazolo[4,3-c]pyridine (1 g, 4.04 mmol) was dissolved in DMF (20 mL) and cooled to 0° C. Sodium hydride (0.242 g, 6.06 mmol) was then added and the reaction mixture stirred for one hour. Trityl chloride (1.351 g, 4.85 mmol) was then added and the reaction mixture warmed to room temperature and stirred for 1.5 hours. The reaction mixture was diluted with water and stirred at 0° C. for one hour to promote perception. The solid was filtered and rinsed with water. The solid was diluted with DCM and concentrated in vacuo while loading onto silica gel. The residue was purified by flash chromatography (2-30% EtOAc/isohexane) to give 6-chloro-3-(4-fluorophenyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine (1.63 g, 3.33 mmol, 82%). MS ESI calc'd. For C31H21ClFN3 [M+1]+ 490, found 490.

reactant | 6-Chloro-3-(4-fluorophenyl)-1H-pyrazolo[4,3-c]pyridine | 4.04 mmol, 1 g | ClC1=CC2=C(C=N1)C(=NN2)C2=CC=C(C=C2)F | C12H7ClFN3
reactant | Sodium hydride | 6.06 mmol, 0.242 g | [H-].[Na+]
reactant | Trityl chloride | 4.85 mmol, 1.351 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-chloro-3-(4-fluorophenyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 3.33 mmol, 1.63 g, 82% | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=C(C=C2)F | C31H21ClFN3
